US08735584B2
N-(4-(8-Chloro-6-oxo-5,6-dihydrobenzo[c][1,8]naphthyridin-1-ylamino)phenyl)benzamide (275)
The title compound was synthesized according to the procedure described for the preparation of Example 267 using 1,8-dichloro-5H-benzo[c][1,8]naphthyridin-6-one and N-(4-aminophenyl)benzamide to provide 275. LC-MS (M+H=442, obsd.=442).

reactant | 1,8-dichloro-5H-benzo[c][1,8]naphthyridin-6-one | ClC1=C2C3=C(C(NC2=NC=C1)=O)C=C(C=C3)Cl | C12H6Cl2N2O
reactant | N-(4-aminophenyl)benzamide | NC1=CC=C(C=C1)NC(C1=CC=CC=C1)=O | C13H12N2O
product | N-(4-(8-Chloro-6-oxo-5,6-dihydrobenzo[c][1,8]naphthyridin-1-ylamino)phenyl)benzamide | ClC=1C=CC2=C(C(NC3=NC=CC(=C23)NC2=CC=C(C=C2)NC(C2=CC=CC=C2)=O)=O)C1 | C25H17ClN4O2
